US05679854
Preparation of (E)-2-(Fluoromethylene)-4-(p-fluorophenyl)butan-1-ol
Cool a tetrahydrofuran solution of sodium bis(trimethylsilyl)amide (545 kg, 2M, 877 mol) to -10° C. Slowly add, t-butyl 4-(p-fluorophenyl)butyrate (84.1 kg, 80% by weight in toluene, 353 mol). After 15 minutes, slowly add ethyl chloroformate (38.6 kg, 356 mol) at such a rate that the reaction temperature is maintained at or below -5° C. After 20 minutes, warm the reaction mixture to 40° C.-45° C. Seal the reaction vessel and add chlorodifluoromethane (38.15 kg, 445 mol) to the head space. After 1 hour, cool to 15° C.-20° C. and vent the reaction vessel. Add a solution of acetic acid (421 kg, 20% in water) and stir. After 30 minutes, separate the aqueous layer and evaporate the organic layer in vacuo to obtain a residue. Add toluene (45 kg) and evaporate in vacuo until the internal temperature of the reaction vessel is 55° C. to obtain the title compound as a toluene solution.

reactant | sodium bis(trimethylsilyl)amide | 877 mol, 2M, 545 kg | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | t-butyl 4-(p-fluorophenyl)butyrate | 353 mol, 84.1 kg | FC1=CC=C(C=C1)CCCC(=O)OC(C)(C)C | C14H19FO2
reactant | ethyl chloroformate | 356 mol, 38.6 kg | ClC(=O)OCC | C3H5ClO2
reactant | chlorodifluoromethane | 445 mol, 38.15 kg | ClC(F)F | CHClF2
solvent | acetic acid | 421 kg | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (E)-2-(Fluoromethylene)-4-(p-fluorophenyl)butan-1-ol | F\C=C(\CO)/CCC1=CC=C(C=C1)F | C11H12F2O
